US09260427B2
To a stirred solution of 4-(heptyloxy)benzoic acid (679 mg, 2.87 mmol) in THF (5 mL) was added 1,1′-carbonyldiimidazole (559 mg, 3.45 mmol). After stirring at room temperature for 2 h, the solution was added to a stirred mixture of hydrazine hydrate (0.729 mL, 5.75 mmol) in THF (2 mL) and stirred a further 2 h. The reaction mixture was poured onto water (20 mL) and stirred for 30 min. The resulting precipitate was collected by filtration, washed with water (2×10 mL) then acetonitrile (3 mL) to afford 0.54 g (71%) of 4-(heptyloxy)benzohydrazide as a white solid. LCMS-ESI (m/z) calculated for C14H22N2O2: 250.3 found 251.0 [M+H]+, tR=2.05 min. (Method 4).

reactant | 4-(heptyloxy)benzoic acid | 2.87 mmol, 679 mg | C(CCCCCC)OC1=CC=C(C(=O)O)C=C1 | C14H20O3
reactant | 1,1′-carbonyldiimidazole | 3.45 mmol, 559 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydrazine hydrate | 5.75 mmol, 0.729 mL | O.NN
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(heptyloxy)benzohydrazide | 0.54 g, 71% | C(CCCCCC)OC1=CC=C(C(=O)NN)C=C1 | C14H22N2O2
